US08703761B2
2-(2-Cyclopentyl-acetylamino)-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide
2-Amino-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide (1 eq), cyclopentyl acetyl chloride (1.05 eq) and triethyl amine (3 eq) were stirred as a solution in DCM (5 mL). Desired product was isolated from reaction mixture by silica gel chromatography. LCMS Method 10 Rt=1.48 (M+1=475.1, M−1=473.1), HRMS; expected=474.2101, found=474.2116. 1H NMR (400 MHz, DMSO-D6) 1.07-1.18 (m, 2H) 1.38 (s, 5H) 1.42-1.51 (m, 2H) 1.52-1.60 (m, 2H) 1.62-1.73 (m, 2H) 2.11 (s, 3H) 2.78-2.88 (m, 4H) 3.69-3.78 (m, 4H) 7.23 (t, J=8.91 Hz, 2H) 8.01 (s, 1H) 8.13 (dd. J=8.59, 5.81 Hz, 2H) 11.45 (s, 1H).

reactant | 2-Amino-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide | 1 eq | NC(C(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)F)N1CCOCC1)(C)C | C17H21FN4O2S
reactant | cyclopentyl acetyl chloride | 1.05 eq | C1(CCCC1)CC(=O)Cl | C7H11ClO
reactant | triethyl amine | 3 eq | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-Cyclopentyl-acetylamino)-N-[4-(4-fluoro-phenyl)-5-morpholin-4-yl-thiazol-2-yl]-2-methyl-propionamide | C1(CCCC1)CC(=O)NC(C(=O)NC=1SC(=C(N1)C1=CC=C(C=C1)F)N1CCOCC1)(C)C | C24H31FN4O3S
